Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right neck swelling and redness, low grade fever
 
Major Surgical or Invasive Procedure:
___ Incision and drainage of Right sided supraplatysmal 
abscess

 
History of Present Illness:
Ms. ___ is a lovely ___ yo F with HTN, Hypothyroidism who 
presents with 4 days of progressive R neck swelling, pain, and 
erythema, 2 weeks after Facelift, platysmaplasty, and upper 
blepharoplasty.  Pt was ___ her usual state of health when she 
noted some asymmetric swelling of her R neck 4 days prior to 
presentation.  This progressed over the course of 4 days, and 
yesterday, the swelling became red, tender, and appeared to be 
coming "to a head".  She has been afebrile at home without 
chills or sweats.  ___ the ER today she had a temperature of 
100.5. She denies any symptoms of airway compromise (no SOB, 
stridor), no difficulty or pain with swallowing, and no changes 
___ her voice.  She denies any trauma to the area.  She reports 
she completed her initial post operative course of 5 days of 
presumably cefadroxil, but has not been taking anything for the 
redness or swelling since it began. 
 
Past Medical History:
PMH/PSH: 
HTN
Hypothyroid s/p partial thyroidectomy 
Sarcoma of the back/neck s/p resection 
C-section
Joint replacement x 2 knees, one hip
Facelift, platysmaplasty, upper blepharoplasty 2 weeks ago

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Obvious swelling and erythema of R neck.  appears uncomfortable
breathing comfortably on RA, speaking fluently
RRR
Surgical sites all clean, dry, and intact (bleph, submenton, 
bilateral auricular).  
CN ii-xii ___ tact.  No trismus.  
R neck is warm to the touch, exquisitely tender to light touch, 
swollen with fluctuance and fluid shift that tracks from 
posterior auricular incision down toward clavicle ___ a similar 
path but superficial to the SCM.  At the midpoint of this 
swelling the skin is extremely thin and compromised.  

DISCHARGE PHYSICAL EXAM:
T 98.7, HR 62, BP 108/66, RR 18, 96%RA
Improved swelling and erythema of R neck. Tender
breathing comfortably on RA, speaking fluently
RRR
Surgical sites all clean, dry, and intact (bleph, submenton, 
bilateral auricular).  
CN ii-xii ___ tact.  No trismus.  
R neck  has now 2 incisions: one posterior to the ear and one at 
the inferior border on the neck on the skin overlying the SCM. 
Dressing was changed, small amount of pus, from the inferior 
incision was appreciated. The erythema is markedly improved as 
judged from the marked area on admission
Reduced ROM of the neck to the right due to pain
 
Pertinent Results:
___ 06:20PM BLOOD WBC-7.5 RBC-4.26 Hgb-12.4 Hct-37.2 MCV-87 
MCH-29.1 MCHC-33.3 RDW-13.2 RDWSD-41.7 Plt ___
___ 06:20PM BLOOD Neuts-76.1* Lymphs-15.8* Monos-5.9 
Eos-1.3 Baso-0.5 Im ___ AbsNeut-5.72 AbsLymp-1.19* 
AbsMono-0.44 AbsEos-0.10 AbsBaso-0.04
___ 06:20PM BLOOD Plt ___
___ 06:20PM BLOOD ___ PTT-30.9 ___
___ 06:20PM BLOOD Glucose-102* UreaN-12 Creat-0.7 Na-138 
K-5.7* Cl-99 HCO3-25 AnGap-20
___ 06:20PM BLOOD estGFR-Using this
___ 07:35AM BLOOD Vanco-12.0
___ 06:01AM BLOOD Vanco-6.3*
___ 10:56PM BLOOD K-4.0
___ 06:20PM BLOOD Lactate-1.3 K-5.0

___ 8:58 pm ABSCESS      Source: R neck. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 

   WOUND CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
 
Brief Hospital Course:
Mrs ___ was admitted on ___ to the hospital due to 
significant right neck swelling and redness due to an infection 
on the right neck after her recent surgery (2 weeks after 
Facelift, platysmaplasty, and upper blepharoplasty). We 
administered IV antibiotics (Vancomycin) and she underwent an 
incision and drainage of the right supraplatysmal neck abscess 
on ___. Twice per day dressing were initiated and the 
infected wound site was significantly improved. Once she was 
able to tolerate a diet, ambulate and her infection was under 
better control we decided to discharge her with oral Bactrim, 
___ services for wound check and daily dressing changes, 
instructions and follow up with Dr. ___ ___ a week.
 
Medications on Admission:
1.  Acetaminophen 650 mg PO Q6H 
2.  Docusate Sodium 100 mg PO BID 
3.  Hydrocodone 
4.  Amitriptyline 50 mg PO QHS  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Simvastatin 10 mg PO QPM  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6h Disp 
#*120 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*1 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4h Disp #*40 
Tablet Refills:*0 
4.  Amitriptyline 50 mg PO QHS  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right neck supraplatysmal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted on ___ to the hospital due to significant 
right neck swelling and redness due to an infection on the right 
neck after your recent surgery. We administered IV antibiotics 
(Vancomycin) and ___ underwent an incision and drainage of the 
right neck abscess on ___. We started twice per day dressing 
changes and your infection was improved. Once ___ were able to 
tolerate a diet, ambulate and your infection was under better 
control we decided to discharge ___.

Please follow these discharge instructions: 
. 
-Continue to monitor your right neck area for continued 
improvement. 
 If the redness and swelling 
increase, please call the doctor's office to report this. 
-Should ___ have fevers and chills, please call the doctor's 
office immediately to report. 
-Continue your antibiotics until they are finished.   
-___ may consider eating a probiotic yogurt daily to replace the 
'good' bacteria ___ your intestinal tract.  If ___ cannot 
tolerate yogurt then ___ may buy 'acidophilus' over the counter 
as a supplement choice.  
Acidophilus is a 'friendly' bacteria for your gut. 
-If ___ start to experience excessive diarrhea, please call the 
doctor's office to report this. 
-Do not overexert yourself and no strenuous exercise for now. 
-___ may take either tylenol or advil (ibuprofen) for your 
discomfort.  
Take as directed. 

___ will need daily dressing changes and we arranged for ___ 
services for this.

 
Followup Instructions:
___